US09023858B2
D) 7-amino-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
2-(Ethylsulfanyl)-7-[(4-methoxybenzyl)amino]-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one (63 mg) and anisole (26 μl) were added to trifluoroacetic acid (1 ml), and the mixture was heated under reflux for 1 hr and 30 min. The reaction mixture was basified with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (29 mg) as a white solid.

reactant | 2-(Ethylsulfanyl)-7-[(4-methoxybenzyl)amino]-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 63 mg | C(C)SC=1N(C(C2=C(N1)N=C(C=C2)NCC2=CC=C(C=C2)OC)=O)C2=CC=C(C=C2)OCC(F)(F)F | C25H23F3N4O3S
reactant | anisole | 26 μl | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 7-amino-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 29 mg | NC=1C=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)SCC)N1 | C17H15F3N4O2S
